US07495007B2
In a manner similar to the method described in example 190b, 1-benzofuran-5-carbaldehyde (1.2 g, 10 mmol) (Maybr-INT) was used as the starting material in place of 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-benzaldehyde to react with 1,1,3,3,3-hexamethyldisilazane (1.6 g, 10 mmol), n-butyllithium (2.5 M, 4 mL, 10 mmol), trimethylsilyl chloride (1.1 g, 10 mmol), triethylamine (1.36 g, 13.6 mmol) and acetyl chloride (1 g, 13.6 mmol) to give crude 1-(1-benzofuran-5-yl)-3-trimethylsilyoxy-2-aza-1,3-butadiene as a yellow gum and used for the next step without further purification.

reactant | 1-benzofuran-5-carbaldehyde | 10 mmol, 1.2 g | O1C=CC2=C1C=CC(=C2)C=O | C9H6O2
reactant | 2-[2-(tert-butyl-dimethyl-silanyloxy)-ethoxy]-5-iodo-benzaldehyde | C(C)(C)(C)[Si](OCCOC1=C(C=O)C=C(C=C1)I)(C)C | C15H23IO3Si
reactant | 1,1,3,3,3-hexamethyldisilazane | 10 mmol, 1.6 g | C[Si](C)(C)N[Si](C)(C)C | C6H19NSi2
reactant | n-butyllithium | 10 mmol, 2.5 M, 4 mL | C(CCC)[Li]
reactant | trimethylsilyl chloride | 10 mmol, 1.1 g | C[Si](C)(C)Cl | C3H9ClSi
reactant | triethylamine | 13.6 mmol, 1.36 g | C(C)N(CC)CC | C6H15N
reactant | acetyl chloride | 13.6 mmol, 1 g | C(C)(=O)Cl | C2H3ClO
product | 1-(1-benzofuran-5-yl)-3-trimethylsilyoxy-2-aza-1,3-butadiene | O1C=CC2=C1C=CC(=C2)C=NC(=C)O[Si](C)(C)C | C14H17NO2Si
